### PR TITLE
Add lemma `pmf_measurable`

### PR DESCRIPTION
**Pull request by Yosuke-Ito-345**
##### Motivation for this change

Prove that the function `pmf` is measurable.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`
- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/probability.v [hunk 1]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
 
+Definition pmf d (T : measurableType d) (R : realType) (P : probability T R)
+  (X : {RV P >-> R}) (r : R) : R := fine (P (X @^-1` [set r])).
+
+Section pmf_measurable.
+Local Open Scope ereal_scope.
+Context d (T : measurableType d) (R : realType)
+  (P : probability T R) (X : {RV P >-> R}).
+
+Lemma pmf_positive_countable : countable [set r | (0 < pmf X r)%R].
```
Comment (t6s) [inline theories/probability.v]: `pmf_gt0_countable` will be more conformant with other names

File: theories/probability.v [hunk 2]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+Proof.
+have ->: [set r | 0 < (pmf X r)%:E] =
+  \bigcup_n [set r | (n.+1%:R^-1 < pmf X r)%R].
+  rewrite seteqP; split => [r /ltr_add_invr [l] | r [k] _]; last exact: lt_trans.
```
Comment (t6s) [inline theories/probability.v]:
```suggestion
  apply/seteqP; split => [r /ltr_add_invr [l] | r [k] _]; last exact: lt_trans.
```
to make this line fit within 80 chars.

File: theories/probability.v [hunk 3]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+case=> q q_fun q_inj /=.
+have pre1 k : measurable (X @^-1` [set q k]).
+  by apply: measurable_funPTI; exact: measurable_set1.
+rewrite -falseE -(ltxx (1:R)%:E).
+apply: (@lt_le_trans _ _ (P (\bigcup_k X @^-1` [set q k])));
+  last by apply/probability_le1/bigcup_measurable => k _.
+have <-: \big[+%R/0%R]_(0 <= k <oo | k \in setT) P (X @^-1` [set q k]) =
+  P (\bigcup_k X @^-1` [set q k]).
+  apply/esym/measure_bigcup => //=.
+  move: (trivIset_comp (fun r => X @^-1` [set r]) q_inj); rewrite /comp => ->.
```
Comment (t6s) [inline theories/probability.v]:
```suggestion
  rewrite measure_bigcup// (trivIset_comp (fun r => X @^-1` [set r]))//.
```

File: theories/probability.v [hunk 4]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+case/countable_bijP => S.
+rewrite card_eq_sym; case/pcard_eqP/bijPex => /= h h_bij.
+apply/measurable_EFinP.
+pose sfun r :=
+  \big[+%R/0%R]_(0 <= k <oo | in_set S k) (pmf X (h k) * \1_[set h k] r)%:E.
+have pmf_ge0 s : 0 <= (pmf X s)%:E by rewrite fineK ?fin_num_measure.
+have pmf1_ge0 k s : 0%R <= (pmf X (h k) * \1_[set h k] s)%:E.
+  by rewrite EFinM; apply: mule_ge0.
+apply: (eq_measurable_fun sfun) => [r _|].
+  case: (pselect ([set h k | k in S] r)) => [rS | nrS].
```
Comment (t6s) [inline theories/probability.v]: I would use asboolP instead of pselect to avoid an extra of parentheses:
```
case/asboolP: ([set h k | k in S] r) => [rS | nrS].
```

But honestly I'm not sure which is more idiomatic.

File: theories/probability.v [hunk 5]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+  - pose kr := (pinv S h r).
+    have neqh k : in_set S k && (k != kr) -> r != h k.
```
Comment (t6s) [inline theories/probability.v]:
```suggestion
    have neqh k : (k \in S) && (k != kr) -> r != h k.
```

File: theories/probability.v [hunk 6]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+      rewrite eseries0 => [| k k_ge0 /(neqh _)/negPf].
+        by rewrite indicE in_set1_eq pinvK ?in_setE// eq_refl mulr1 addr0.
+      by rewrite indicE in_set1_eq => ->; rewrite mulr0.
+  - rewrite /sfun eseries0 => [|k k_ge0 Sk]/=.
+      apply: le_anti; rewrite pmf_ge0 lee_fin leNgt.
+      apply/negP/contra_not/nrS.
+      by rewrite (surj_image_eq _ (set_bij_surj h_bij))//; exact: set_bij_sub.
+    rewrite indicE in_set1_eq.
+    have ->: (r == h k) = false; rewrite ?mulr0// -eq_opE eqbF_neg; apply/negP.
+    apply/contra_not/nrS; rewrite eq_opE => ->.
```
Comment (t6s) [inline theories/probability.v]:
```suggestion
    suff ->: (r == h k) = false by rewrite mulr0.
    apply/negbTE/eqP/contra_not/nrS => ->.
```

File: theories/probability.v [hunk 7]
```diff
@@ -1072,6 +1072,80 @@ Qed.
...
+    by exists k; rewrite -?(in_setE S k).
```
Comment (t6s) [inline theories/probability.v]:
```suggestion
    by exists k => //; rewrite -(in_setE S k).
```

File: classical/classical_sets.v [hunk 8]
```diff
@@ -422,6 +422,11 @@ Lemma nat_nonempty : [set: nat] !=set0. Proof. by exists 1%N. Qed.
 
 #[global] Hint Resolve nat_nonempty : core.
 
+Lemma in_set1_eq {T : eqType} (a : T) (x : T) : x \in [set a] = (x == a).
```
Comment (t6s) [inline classical/classical_sets.v:425]: I think this lemma deserves the name `in_set1`, and the current `in_set1` can be removed at all
(or the latter should be renamed to something like `in_set1_fin` or `in_finset1`).

@CohenCyril

Comment (t6s) [reply classical/classical_sets.v:425]: `in_set1` is not used at all in mathcomp-analysis master!

```
master$ find . -name "*.v" -exec grep -Hn "in_set1" {} ';'
./classical/classical_sets.v:2199:Lemma in_set1 [T : finType] (x y : T) : (x \in [set y]) = (x \in [set y]%SET).
master$
```

**Comment by t6s** [comment]
The CI failure looks strange and irrelevant to this PR.

File: classical/classical_sets.v (hunk 8 above)
Comment (affeldt-aist) [reply classical/classical_sets.v:425]: I mark the comment I resolve since I created issue #1841

**Comment by Yosuke-Ito-345** [comment]
Thank you for the review.
I didn't know the tactical `/[!add0r]`.
